US04347342
A mixture containing fourteen grams of hydroxylammonium chloride dissolved in 100 ml of water was added to 100 ml of ether in a 250 ml flask. The resulting mixture was cooled to 2° C. and 45.4 g of ethyldodecaneimidate were added to the mixture with stirring. The reaction mixture was stirred for an additional 30 minutes at 2° C. The layers were separated and the aqueous layer was extracted three times with 75 ml of ether. The ether layer and washings were combined and then dried over sodium sulfate and concentrated to yield 37.3 g (77% yield) of ethyl dodecane hydroximate as a white, solid substance. IR and NMR analyses confirmed the structure.

reactant | hydroxylammonium chloride | fourteen grams | [Cl-].O[NH3+]
reactant | ether | 100 ml | CCOCC | C4H10O
reactant | ethyldodecaneimidate | 45.4 g | C(C)OC(CCCCCCCCCCC)=N | C14H29NO
solvent | water | 100 ml | O | H2O
product | ethyl dodecane hydroximate | 37.3 g, 77% yield | C(CCCCCCCCCCC)(OCC)=NO | C14H29NO2
